US07855290B2
N-(4-Fluorophenyl)-N′-[2-fluoro-4-({2-[(pyrrolidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)phenyl]cyclopropane-1,1-dicarboxamide
To a solution of roughly purified [4-(3-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester (150 mg) in N,N-dimethylformamide (1.5 ml) was added pyrrolidine (0.100 ml) at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under reduced pressure. To the resultant residue was added diethyl ether:heptane=1:2 to precipitate a solid. The solvent was concentrated under reduced pressure, and the residue was dried under reduced pressure to provide the titled compound as white powder (17.4 mg).

reactant | [4-(3-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 150 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)F)=O | C36H26F2N4O7
reactant | pyrrolidine | 0.100 ml | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | N-(4-Fluorophenyl)-N′-[2-fluoro-4-({2-[(pyrrolidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)phenyl]cyclopropane-1,1-dicarboxamide | 17.4 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCCC1)F | C27H25F2N5O4
